US03992535
4-Hydroxy-2-methyl-N-(2-pyridyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
A mixture consisting of 9.53 gm (0.03 mol) of 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide, 3.8 gm (0.04 mol) of 2-aminopyridine and 250 ml of anhydrous xylene was refluxed for 14 hours in a Soxhlet apparatus equippedwith a 4-A-molecular sieve. After cooling and standing overnight, the crystals which had formed were suction-filtered off and recrystallized from ethylene chloride, yielding 5.4 gm (42% of theory) of the crystallinecompound of the formula ##SPC14##

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | 0.03 mol, 9.53 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-aminopyridine | 0.04 mol, 3.8 gm | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-2-methyl-N-(2-pyridyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NC=CC=C1 | C19H15N3O4S
